US04232010
In 800 ml of dry carbon tetrachloride was dissolved 20 g (0.088 mol) of 2-(benzothiazol-2-yl)-5-methylpyridine, followed by the addition of 16.4 g (0.092 mol) of N-bromosuccinimide and a catalytic amount of benzoyl peroxide. The mixture was heated at reflex for 10 hours, after which time it was allowed to cool down to room temperature. The precipitated succinimide was filtered off, the filtrate concentrated to 200 ml and the resulting crude crystals collected by filtration. Yield 24 g. Recrystallization from ligroine yielded 19 g of 2-(benzothiazol-2-yl)-5-bromomethylpyridine as colorless needles.

reactant | 2-(benzothiazol-2-yl)-5-methylpyridine | 0.088 mol, 20 g | S1C(=NC2=C1C=CC=C2)C2=NC=C(C=C2)C | C13H10N2S
reactant | N-bromosuccinimide | 0.092 mol, 16.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 800 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(benzothiazol-2-yl)-5-bromomethylpyridine | 19 g | S1C(=NC2=C1C=CC=C2)C2=NC=C(C=C2)CBr | C13H9BrN2S
